US04889857
By the use of 2-chloromethyl-4-benzylmorpholine and N-methylpiperazine, the reactin is similarly carried out as Reference example 2 to give 2-(4-methyl-1-piperazinylmethyl) morpholine.trihydrochloride as white crystals, melting at 210°-212° C.

reactant | 2-chloromethyl-4-benzylmorpholine | ClCC1CN(CCO1)CC1=CC=CC=C1 | C12H16ClNO
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | reactin | CN1CCC(=C2C3=CC=CC=C3C=CC4=CC=CC=C42)CC1 | C21H21N
product | 2-(4-methyl-1-piperazinylmethyl) morpholine | CN1CCN(CC1)CC1CNCCO1 | C10H21N3O
